US08492378B2
3-(2,5-difluorophenyl)-5-(5-methyl-1,3,4-oxadiazol-2-yl)furo[3,2-b]pyridine
In the same manner as in Example 132 and using 3-bromo-5-(5-methyl-1,3,4-oxadiazol-2-yl)furo[3,2-b]pyridine instead of 2-(3-bromo-1-benzofuran-5-yl)-5-methyl-1,3,4-oxadiazole, using (2,5-difluorophenyl)boronic acid instead of (4-fluorophenyl)boronic acid, and using [1,1′-bis(diphenylphosphino)ferrocene]palladium(II) chloride dichloromethane complex instead of tetrakis(triphenylphosphine)palladium(0), the title compound (yield 43%) was obtained as colorless crystals.

reactant | 3-bromo-5-(5-methyl-1,3,4-oxadiazol-2-yl)furo[3,2-b]pyridine | BrC1=COC=2C1=NC(=CC2)C=2OC(=NN2)C | C10H6BrN3O2
reactant | (2,5-difluorophenyl)boronic acid | FC1=C(C=C(C=C1)F)B(O)O | C6H5BF2O2
product | 3-(2,5-difluorophenyl)-5-(5-methyl-1,3,4-oxadiazol-2-yl)furo[3,2-b]pyridine | yield 43% | FC1=C(C=C(C=C1)F)C1=COC=2C1=NC(=CC2)C=2OC(=NN2)C | C16H9F2N3O2
